US08912188B2
To a solution of methyl 7-methoxy-1-[(4-methoxyphenyl)methyl]-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate (24 g, 64.80 mmol) in toluene (300 mL) was added POCl3 (14.8 g, 96.52 mmol) and N,N-dimethylaniline (15.7 g, 129.75 mmol). The resulting solution was stirred overnight at 110° C. and concentrated in vacuo. The product was precipitated by the addition of methanol (150 mL) and collected by filtration to afford methyl 3-chloro-7-methoxy-1-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a green solid (17 g, 65%).

reactant | methyl 7-methoxy-1-[(4-methoxyphenyl)methyl]-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 64.80 mmol, 24 g | COC1=C(C=C2NC(C(N(C2=C1)CC1=CC=C(C=C1)OC)=O)=O)C(=O)OC | C19H18N2O6
reactant | POCl3 | 96.52 mmol, 14.8 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 129.75 mmol, 15.7 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-chloro-7-methoxy-1-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 17 g, 65% | ClC=1C(N(C2=CC(=C(C=C2N1)C(=O)OC)OC)CC1=CC=C(C=C1)OC)=O | C19H17ClN2O5
